US09388195B2
D) Production of 2-benzyl 1-tert-butyl(2S,3aS,6aS)-hexahydrocyclopenta[b]pyrrole-1,2(2H)-dicarboxylate
A mixture of benzyl(2S,3aS,6aS)-octahydrocyclopenta[b]pyrrole-2-carboxylate hydrochloride (1.00 g), di-tert-butyl dicarbonate (1.16 g), triethylamine (0.72 g) and tetrahydrofuran (10 mL) was stirred at room temperature for 18 hr. Ethyl acetate (20 mL) and water (20 mL) were added to the reaction mixture, and the separated aqueous layer was extracted with ethyl acetate (10 mL×2). The combined organic layers were washed with brine (20 mL) and dried over anhydrous magnesium sulfate. Insoluble material was removed by filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (1.23 g) as a colorless oil.

reactant | benzyl(2S,3aS,6aS)-octahydrocyclopenta[b]pyrrole-2-carboxylate hydrochloride | 1.00 g | Cl.N1[C@@H]2[C@H](C[C@H]1C(=O)OCC1=CC=CC=C1)CCC2
reactant | di-tert-butyl dicarbonate | 1.16 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 0.72 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 20 mL | O | H2O
solvent | Ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 2-benzyl 1-tert-butyl(2S,3aS,6aS)-hexahydrocyclopenta[b]pyrrole-1,2(2H)-dicarboxylate | 1.23 g | N1([C@@H]2[C@H](C[C@H]1C(=O)OCC1=CC=CC=C1)CCC2)C(=O)OC(C)(C)C | C20H27NO4
